US03978045
A suspension of 1.0 gram of N2 -dansyl-L-arginine in 15 ml of anhydrous ethanol was saturated with dry hydrogen chloride for 1 hour. The reaction mixture was reflexed for an additional 1 hour. After cooling, the reaction mixture was concentrated in vacuo. The residue was triturated with cold ethyl ether to give a crystalline product. After crystallization from ethanol-ethyl ether, N2 -dansyl-L-arginine ethyl ester dihydrochloride was obtained in 95% yield; mp. 140°-144°C.

reactant | N2 dansyl-L-arginine | 1.0 gram | N#N.S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | N2 dansyl-L-arginine ethyl ester dihydrochloride | 95% yield | N#N.Cl.Cl.C(C)OC([C@@H](NS(=O)(=O)C1=CC=CC=2C(N(C)C)=CC=CC12)CCCNC(N)=N)=O | InChI=1S/C20H29N5O4S.2ClH.N2/c1-4-29-19(26)16(10-7-13-23-20(21)22)24-30(27,28)18-12-6-8-14-15(18)9-5-11-17(14)25(2)3;;;1-2/h5-6,8-9,11-12,16,24H,4,7,10,13H2,1-3H3,(H4,21,22,23);2*1H;/t16-;;;/m0.../s1
